US07541374B2
The mixture of 2.08 g of 3-(trifluoromethyl)-4-ethyoxycarbonyl-1H-pyrazole and 0.66 g of paraformaldehyde was stirred at 150° C. for 4 hours. After the reaction mixture was cooled to room temperature, acetone was added. After the mixture was filtered, the filtrate was concentrated under reduced pressure to obtain 2.23 g of 1-(hydroxymethyl)-3-(trifluoromethyl)-4-ethoxycarbonyl-1H-pyrazole.

reactant | 3-(trifluoromethyl)-4-ethyoxycarbonyl-1H-pyrazole | 2.08 g | FC(C1=NNC=C1C(=O)OCC)(F)F | C7H7F3N2O2
reactant | paraformaldehyde | 0.66 g | C=O | CH2O
solvent | acetone | CC(=O)C | C3H6O
product | 1-(hydroxymethyl)-3-(trifluoromethyl)-4-ethoxycarbonyl-1H-pyrazole | 2.23 g | OCN1N=C(C(=C1)C(=O)OCC)C(F)(F)F | C8H9F3N2O3
